US05098932
Using the procedure described in Example 6, (E)-cinnamyl bromide was reacted with 4-ethyl-4-(5-fluoro-3-hydroxyphenyl)-2,2-dimethyl-1,3-dioxolane to give 4-[3-((E)-cinnamyloxy)-5-fluorophenyl]-4-ethyl-2,2-dimethyl-1,3-dioxolane in 2% yield, as an oil.

reactant | (E)-cinnamyl bromide | C(\C=C\C1=CC=CC=C1)Br | C9H9Br
reactant | 4-ethyl-4-(5-fluoro-3-hydroxyphenyl)-2,2-dimethyl-1,3-dioxolane | C(C)C1(OC(OC1)(C)C)C1=CC(=CC(=C1)F)O | C13H17FO3
product | 4-[3-((E)-cinnamyloxy)-5-fluorophenyl]-4-ethyl-2,2-dimethyl-1,3-dioxolane | 2% yield | C(\C=C\C1=CC=CC=C1)OC=1C=C(C=C(C1)F)C1(OC(OC1)(C)C)CC | C22H25FO3
